US04155996
7 g of potassium carbonate and 8 g of O,O-dimethyl chlorothiophosphate were added to a solution of 10.5 g of 2-cyano-3-hydroxy-5-phenyl-thiophene in 120 ml of acetone and the mixture was stirred at 20° C. for 15 hours and was then filtered. The filtrate was evaporated to dryness and the crystal residue was empasted with petroleum ether. The crystals were then crystallized from isopropyl ether to obtain 12.8 g of 2-cyano-3-(dimethoxythiophosphoryloxy)-5-phenylthiophene melting at 95° C.

reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-dimethyl chlorothiophosphate | 8 g | P(=S)(OC)(OC)Cl | C2H6ClO2PS
reactant | 2-cyano-3-hydroxy-5-phenyl-thiophene | 10.5 g | C(#N)C=1SC(=CC1O)C1=CC=CC=C1 | C11H7NOS
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-cyano-3-(dimethoxythiophosphoryloxy)-5-phenylthiophene | 12.8 g | C(#N)C=1SC(=CC1OP(=S)(OC)OC)C1=CC=CC=C1 | C13H12NO3PS2
